* C:\users\jwl\My Documents\Projects\Clock\Power\LT8304_200Vout.asc
V1 IN 0 12
C1 N007 0 1µ
L1 N001 Vsw 40µ Ipk=10 Rser=.085 Rpar=7k Cpar=5p
L2 Gnd2 N005 .001 Rser=3.6
D1 N005 OUT RFN5BM3S
C2 OUT Gnd2 330n Rser=2m
R1 Vsw N006 342K tol=1 pwr=0.1
R2 N008 0 10K
R3 N008 N009 100K
Rload OUT Gnd2 11.3K
XU1 N001 N007 N001 0 Vsw N006 N008 N009 LT8304
C4 N001 0 18µ
R4 N003 Vsw 100
C3 N001 N003 2000µ
D2 N001 N002 1N5378B
D3 NC_01 N004 RFU01SM4S
D4 N002 N004 EDZV20B
C5 Gnd2 0 4.7n
R6 N001 IN 1µ
.model D D
.lib C:\users\jwl\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1
.tran 0 6m 0 6u startup
* Input: 10V to 15V       Output: 190V @ 0.02A
.lib LT8304.sub
.backanno
.end
