* C:\users\jwl\My Documents\Projects\Clock\Power\LT8304_200Vout.asc
V1 IN 0 12
C1 N004 0 1µ
L1 IN Vsw 40µ Ipk=10 Rser=.085 Rpar=7k Cpar=5p
L2 0 N002 .001 Rser=3.6
D1 N002 OUT RFN5BM3S
C2 OUT 0 310n Rser=2m
R1 Vsw N003 342K tol=1 pwr=0.1
R2 N005 0 10K
R3 N005 N006 100K
Rload OUT 0 150K
XU1 IN N004 IN 0 Vsw N003 N005 N006 LT8304
C4 IN 0 10µ
R4 N001 Vsw 100
C3 IN N001 270p
C6 IN 0 10µ
.model D D
.lib C:\users\jwl\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1
.tran 0 5m 0 6u startup
* Input: 10V to 15V       Output: 190V @ 0.02A
.lib LT8304.sub
.backanno
.end
